US04806549
A mixture of crude 3-acetyl-4-chloro-8-methoxyquinoline (7.9 g) and o-toluidine (2 ml. 19 mmol) in dioxan (150 ml) was heated under reflux with stirring for 2 hours, then cooled and evaporated. Aqueous sodium bicarbonate was added, the mixture extracted with chloroform, and the organic extract dried and evaporated. Recrystallisation from ethyl acetate and then from ethanol gave 3-acetyl-4-(2-methylphenylamino)-8-methoxyquinoline (2.65 g, 44% from 3-acetyl-8-methoxy-4(1H)-quinolone), m.p. 171°-173°.

reactant | 3-acetyl-4-chloro-8-methoxyquinoline | 7.9 g | C(C)(=O)C=1C=NC2=C(C=CC=C2C1Cl)OC | C12H10ClNO2
reactant | o-toluidine | 19 mmol, 2 ml | NC=1C(=CC=CC1)C | C7H9N
solvent | dioxan | 150 ml | O1CCOCC1 | C4H8O2
product | 3-acetyl-4-(2-methylphenylamino)-8-methoxyquinoline | 2.65 g, 44% | C(C)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=CC=C1)C)OC | C19H18N2O2
